US04039612
A solution of methyl iodide (130 g) in acetone (160 ml) was added to a stirred mixture of 2-nitro-4-dodecylacetanilide (196 g) and sodium hydroxide (130 g) in acetone (1100 ml) at room temperature. The mixture was heated rapidly and allowed to boil for 8 minutes, filtered hot and the filtrate evaporated to a semi-solid which was partitioned between toluene (800 ml) and water (400 ml). The organic layer was washed with water, dried and evaporated to give 199 g of 2-nitro-4-dodecyl-N-methylacetanilide as a dark oil.

reactant | methyl iodide | 130 g | CI | CH3I
reactant | 2-nitro-4-dodecylacetanilide | 196 g | [N+](=O)([O-])C(C)CC(CCCCCCCC)CC(=O)NC1=CC=CC=C1 | C20H32N2O3
reactant | sodium hydroxide | 130 g | [OH-].[Na+]
solvent | acetone | 160 ml | CC(=O)C | C3H6O
solvent | acetone | 1100 ml | CC(=O)C | C3H6O
product | 2-nitro-4-dodecyl-N-methylacetanilide | 199 g | [N+](=O)([O-])C(C)CC(CCCCCCCC)CC(=O)N(C1=CC=CC=C1)C | C21H34N2O3
